US20010006758A1
To a methylene chloride solution of 20 g of the diphenyl-4-methoxyphenylsulfonium trifluoromethanesulfonate, 90 ml of a 1 M boron tribromide-methylene chloride solution was slowly dropwise added with stirring at room temperature, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture formed, methanol and distilled water were slowly added, followed by drying under reduced pressure to obtain a white crystal compound. The white crystal compound was dissolved in methanol, and ion exchange was effected using an anionic ion-exchange resin (Cl−type), followed by drying under reduced pressure to obtain 11.5 g of diphenyl-4-hydroxyphenylsulfonium chloride.

reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | diphenyl-4-methoxyphenylsulfonium trifluoromethanesulfonate | 20 g | FC(S(=O)(=O)[O-])(F)F.C1(=CC=CC=C1)[S+](C1=CC=C(C=C1)OC)C1=CC=CC=C1
reactant | boron tribromide methylene chloride | 1 M | B(Br)(Br)Br.C(Cl)Cl
solvent | methanol | CO | CH4O
product | diphenyl-4-hydroxyphenylsulfonium chloride | 11.5 g | [Cl-].C1(=CC=CC=C1)[S+](C1=CC=C(C=C1)O)C1=CC=CC=C1 | InChI=1S/C18H14OS.ClH/c19-15-11-13-18(14-12-15)20(16-7-3-1-4-8-16)17-9-5-2-6-10-17;/h1-14H;1H
